US05013863
To a solution of 0.90 g (4.0 mmol) of 3-aminopropyl(diethoxymethyl)phosphinic acid in 10 ml of glacial acetic acid at 0° there are added 0.38 ml (4,4 mmol) of ethane-1,2-dithiol, followed by addition of 2 ml of concentrated hydrochloric acid over a period of 5 min. The mixture is allowed to warm to room temperature and is then stirred for 18 hours. After removal of acetic and hydrochloric acids under high vacuum, the residue is chromatographed (Opti-Up® C12 50%, water) and recrystallized from methanol to yield 3-aminopropyl(1,3-dithiolan-2-yl)phosphinic acid, m.p. 272-274°.

reactant | 3-aminopropyl(diethoxymethyl)phosphinic acid | 4.0 mmol, 0.90 g | NCCCP(O)(=O)C(OCC)OCC | C8H20NO4P
reactant | ethane-1,2-dithiol | 4,4 mmol, 0.38 ml | C(CS)S | C2H6S2
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-aminopropyl(1,3-dithiolan-2-yl)phosphinic acid | NCCCP(O)(=O)C1SCCS1 | C6H14NO2PS2
